US07491710B2
Methylphosphonic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester methyl ester is prepared according to procedure F using 150 mg of methylphosphonic acid bis-(4-nitrophenyl) ester, 4 ml of dichloromethane, 100 mg of 3-(1H-indol-2-yl)-1H-indazol-5-ol, 67 μl of 1,8-diazabicyclo[5.4.0]undec-7-ene and 4 ml of dichloromethane. After stirring for 3 hours, a solution of 100 μl of methanol in 2 ml of dichloromethane is added dropwise. The reaction medium is stirred for approximately 16 hours and then concentrated to dryness under reduced pressure. The oil obtained is purified on a 5 g Interchim flash cartridge of silica with a particle size of 15-35 μ. Eluent: 30% of ethyl acetate in cyclohexane, then with 80% of ethyl acetate in methanol. The solvents are evaporated off under reduced pressure and the product obtained is crystallized from ethyl acetate. 36 mg of methylphosphonic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester methyl ester are obtained in the form of white crystals.

reactant | methylphosphonic acid bis-(4-nitrophenyl) ester | 150 mg | [N+](=O)([O-])C1=CC=C(C=C1)OP(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)C | C13H11N2O7P
reactant | 3-(1H-indol-2-yl)-1H-indazol-5-ol | 100 mg | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)O | C15H11N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 67 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methanol | 100 μl | CO | CH4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | methylphosphonic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester methyl ester | 36 mg | COP(OC=1C=C2C(=NNC2=CC1)C=1NC2=CC=CC=C2C1)(=O)C | C17H16N3O3P
